US06716851B2
4-(3,4,5-Trichloroanilino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 3,4,5-trichloroaniline (56 mg, 0.288 mmol) similar to Example 180 and was isolated as a white solid (30 mg, 37%). 1H NMR (CDCl3): 9.58 (d, J=1.5 Hz, 1H), 8.99 (ddd, J=8.4, 4.9, 1.5 Hz, 1H), 8.79 (dd, J=5.4, 1.5 Hz, 1H), 7.99 (s, 1H), 7.76 (dd, J=7.8, 5.1 Hz, 1H), 7.40 (s, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3,4,5-trichloroaniline | 0.288 mmol, 56 mg | ClC=1C=C(N)C=C(C1Cl)Cl | C6H4Cl3N
product | 4-(3,4,5-Trichloroanilino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | ClC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C1Cl)Cl | C16H8Cl3F3N4
